US07977358B2
B] [4-((S)-2-Hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-[5-methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-methanone
In analogy to the procedure described in Example 160E], 5-methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid (Example 160D]) and ((S)-1-piperidin-4-yl-pyrrolidin-2-yl)-methanol dihydrochloride gave the title compound in 78% yield as a light yellow foam. MS: 530.0 (MH+).

reactant | 5-methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | CC1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)O | C17H12F3N3O3
reactant | ((S)-1-piperidin-4-yl-pyrrolidin-2-yl)-methanol dihydrochloride | Cl.Cl.N1CCC(CC1)N1[C@@H](CCC1)CO
product | [4-((S)-2-Hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-[5-methyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-methanone | 78% yield | OC[C@H]1N(CCC1)C1CCN(CC1)C(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1 | C27H30F3N5O3
